US08420690B2
c) N-[2-amino-1-(1-naphthalenyl)ethyl]-5-(1-methyl-1H-pyrazol-5-yl)-3-thiophenecarboxamide
A solution of 1,1-dimethylethyl [2-({[5-(1-methyl-1H-pyrazol-5-yl)-3-thienyl]carbonyl}amino)-2-(1-naphthalenyl)ethyl]carbamate (76 mg, 0.16 mmol) in TFA-DCM (3 mL, 1:2) was stirred at 25° C. After 30 min, the solution was concentrated with a toluene azeotrope and the residue neutralized through a silica plug (3% MeOH in DCM (1% NH4OH)) affording the free base of the title compound (14 mg, 23%) as a white solid.

reactant | 1,1-dimethylethyl [2-({[5-(1-methyl-1H-pyrazol-5-yl)-3-thienyl]carbonyl}amino)-2-(1-naphthalenyl)ethyl]carbamate | 0.16 mmol, 76 mg | CN1N=CC=C1C1=CC(=CS1)C(=O)NC(CNC(OC(C)(C)C)=O)C1=CC=CC2=CC=CC=C12 | C26H28N4O3S
solvent | TFA DCM | 3 mL | C(=O)(C(F)(F)F)O.C(Cl)Cl
product | N-[2-amino-1-(1-naphthalenyl)ethyl]-5-(1-methyl-1H-pyrazol-5-yl)-3-thiophenecarboxamide | 14 mg, 23% | NCC(C1=CC=CC2=CC=CC=C12)NC(=O)C1=CSC(=C1)C1=CC=NN1C | C21H20N4OS
